US06664269B2
Sodium borohydride (1.2 g, 32 mmol) was added in portions to a stirred suspension of 4-benzylidenehomophthalimide (2 g, 8 mmol) in methanol (50 ml), then the stirred mixture was heated under reflux for 4 hours, cooled to ambient temperature and added to water (200 ml). The product was extracted into ethyl acetate (3×50 ml), the combined extracts were washed with water (2×30 ml), dried (MgSO4) and the solvent was removed in vacuo. The residue was dissolved in the minimum volume of ether and sufficient hexane was added to precipitate the product. The resulting solid was collected by filtration, washed with hexane (20 ml) and dried in vacuo to give the 4-benzyl-3-hydroxy-3,4-dihydro-1-isoquinolinone intermediate which was used without purification.

reactant | Sodium borohydride | 32 mmol, 1.2 g | [BH4-].[Na+]
reactant | 4-benzylidenehomophthalimide | 8 mmol, 2 g | C(C1=CC=CC=C1)=C1CC2=C(CC(=O)NC2=O)C=C1 | C16H13NO2
reactant | water | 200 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 4-benzyl-3-hydroxy-3,4-dihydro-1-isoquinolinone | C(C1=CC=CC=C1)C1C(NC(C2=CC=CC=C12)=O)O | C16H15NO2
